US08710043B2
A solution of methyl coumalate (500 mg, 3.24 mmol) in MeOH (10 mL) was treated with (R)-(−)-1-amino-2-propanol (0.319 mL, 4.06 mmol) and TEA (0.790 mL, 5.68 mmol). The reaction was stirred at 23° C. under nitrogen. After 1 h, the reaction was concentrated and purified by silica gel chromatography (eluent: 55-95% EtOAc/hexane), affording (R)-methyl 1-(2-hydroxypropyl)-6-oxo-1,6-dihydropyridine-3-carboxylate as a white solid. MS (ESI pos. ion) m/z: 212.1 (M+1).

reactant | methyl coumalate | 3.24 mmol, 500 mg | COC(=O)C1=COC(=O)C=C1 | C7H6O4
reactant | (R)-(−)-1-amino-2-propanol | 4.06 mmol, 0.319 mL | NC[C@@H](C)O | C3H9NO
solvent | MeOH | 10 mL | CO | CH4O
product | (R)-methyl 1-(2-hydroxypropyl)-6-oxo-1,6-dihydropyridine-3-carboxylate | O[C@@H](CN1C=C(C=CC1=O)C(=O)OC)C | C10H13NO4
